US08048887B2
4-Amino-2-(4-fluorophenyl)-N-methyl-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide
Iron (25 mg, 0.453 mmol) was added to a stirring solution of 2-(4-fluorophenyl)-N-methyl-4-nitro-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide (50 mg, 0.091 mmol) in ethanol (1 mL) and AcOH (1 mL) at rt. It was placed in a reaction block set to 100° C. It was allowed to stir for 1 hr. The mixture was allowed to cool and was diluted with EtOAc and washed with 1M HCl, followed by 1N NaOH and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and triturated with Et2O to give the titled compound (28 mg, 56%). 1H NMR (300 MHz, CD3OD) δ ppm 7.83-7.89 (1H, m), 7.73-7.81 (3H, m), 7.52-7.64 (2H, m), 7.42-7.49 (2H, m), 7.10-7.35 (6H, m), 6.98 (1H, d, J=8.42 Hz), 2.87 (3H, s), 1.76 (6H, s). LC-MS retention time: 2.33 min; m/z (MH+): 522. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 μm, Rt=14.17 min, purity=97%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 μm, Rt=12.84 min, purity=98%.

reactant | 2-(4-fluorophenyl)-N-methyl-4-nitro-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide | 0.091 mmol, 50 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C(=C(C=C2)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O)[N+](=O)[O-] | C32H26FN3O5
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Iron | 0.453 mmol, 25 mg | [Fe] | Fe
product | 4-Amino-2-(4-fluorophenyl)-N-methyl-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide | 28 mg, 56% | NC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O | C32H28FN3O3
